US04061746
A slurry of 15.9 g (0.08 mole) of p-chlorophenethylamine hydrochloride in 25 ml of O-methylcaprolactim is allowed to stand at room temperature 3 days with occasional stirring with a glass rod. The mixture is then cooled and the resulting solid is collected, washed with ether and recrystallized from methanol-acetone to give 2-(p-chlorophenylethylimino)hexahydroazapine hydrochloride.

reactant | p-chlorophenethylamine hydrochloride | 0.08 mole, 15.9 g | Cl.ClC1=CC=C(CCN)C=C1
reactant | O-methylcaprolactim | 25 ml | COC=1CCCCCN1 | C7H13NO
product | 2-(p-chlorophenylethylimino)hexahydroazapine hydrochloride | Cl.ClC1=CC=C(C=C1)CCN=C1NCCCCC1 | InChI=1S/C14H19ClN2.ClH/c15-13-7-5-12(6-8-13)9-11-17-14-4-2-1-3-10-16-14;/h5-8H,1-4,9-11H2,(H,16,17);1H
